* CTLE sizing search 2: trade load resistance against tail current at fixed
* headroom, and input width against transconductance efficiency.
*
* What the first search established.  With the sky130 sizes carried over
* unchanged (Win 20, Rload 6.4k, Rdeg 1.6k, Ccap 648f) the best usable point
* on 1.2 V gives +10.6 dB at Nyquist with +4.4 dB of boost, against sky130's
* +13.32 dB and +6.3..+7.9 dB.  The channel costs 13.7 dB at Nyquist, so
* +10.6 dB leaves 3.1 dB of residual loss -- the equaliser no longer cancels
* the channel, which is the whole job.
*
* Why, and what to do about it.  Gain at the output is
*
*     gm * Rload  =  (gm/Id) * (Id * Rload)  =  (gm/Id) * dVload
*
* and dVload is fixed at about 0.35 V by headroom: VDD 1.2, output common mode
* no lower than ~0.85 V if the next stage is to have anything to sample.  So
* the only free variable in the DC gain is gm/Id, which rises as the input
* pair moves toward weak inversion -- bigger Win at the same current.
*
* Bandwidth pushes the other way.  The output pole is 1/(2*pi*Rload*Cload),
* and at Rload = 6.4k with ~80 fF hanging on the node it sits at 310 MHz,
* barely above the 300 MHz Nyquist: 3 dB of the missing gain is simply the
* stage rolling off.  Lowering Rload and raising Id in proportion keeps dVload
* and therefore the DC gain, and moves the pole up.  It costs current, and
* current is the one thing this design has to spare: the whole CTLE at 200 uA
* on 1.2 V is 0.24 mW against a 6 mW budget.
*
* So the sweep is over (Win, Rload) with the tail gate adjusted to land the
* output common mode near 0.85 V, and Rdeg tracking Rload to hold the boost.
.control
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/psp103_nqs.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/r3_cmc.osdi
pre_osdi /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/osdi/cap_cmomf.osdi
.endc

.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerRES.lib  res_typ
.lib /home/ttuser/pdk/ihp-sg13cmos5l/libs.tech/ngspice/models/cornerCAP.lib  cap_typ

.include ctle_p.inc

.global sub!
Vsub sub! 0 0

.param vcm=0.75
.param cload=50f
.param rch=500 cch=5p

VDD  VDD 0 1.2
VSS  VSS 0 0
Vb   vbias 0 0.55

Vsp  srcp 0 dc 'vcm' ac 0.5 0
Vsm  srcm 0 dc 'vcm' ac 0.5 180
Rchp srcp inp 'rch'
Rchm srcm inm 'rch'
Cchp inp 0 'cch'
Cchm inm 0 'cch'

x1 outp outm inp inm VDD VSS vbias ctle_p
Clp outp 0 'cload'
Clm outm 0 'cload'

.options method=gear reltol=1e-4 abstol=1e-13 vntol=1e-7

.control
foreach vc 0.85 0.95
  foreach rl 2500 3300 4200
    alterparam Win   = 30
    alterparam Lin   = 0.2
    alterparam Rload = $rl
    alterparam Rdeg  = 900
    alterparam Ccap  = 1600f
    alterparam Wtail = 40
    alterparam Ltail = 1.0
    reset
    alter Vsp dc = $vc
    alter Vsm dc = $vc
    foreach vb 0.45 0.50 0.55 0.60
      alter Vb dc = $vb
      op
      let p_vcm    = $vc
      let p_rload  = $rl
      let p_vb     = $vb
      let itail    = -i(vdd)
      let voutcm   = v(outp)
      let vst      = v(x1.st)
      print p_vcm p_rload p_vb itail voutcm vst
      ac dec 20 1e6 1e10
      let gctle = db(v(outp) - v(outm)) - db(v(inp) - v(inm))
      let gtot  = db(v(outp) - v(outm)) - db(v(srcp) - v(srcm))
      meas ac gdc   find gctle at=1e6
      meas ac gnyq  find gctle at=3e8
      meas ac gsys  find gtot  at=3e8
      let boost = gnyq - gdc
      print gdc gnyq boost gsys
    end
  end
end
quit
.endc
.end
